US07935713B2
Step A: Benzyl 4-[(RS)-hydroxy(6-methoxy-2-naphthyl)methyl]benzoate
n-BuLi (15 mL of a 2.0 M solution in cyclohexane, 30 mmol) was added dropwise to a solution of 6-methoxy-2-bromonaphthalene (5.9 g, 25 mmol) in 200 mL of dry THF cooled in dry ice-acetone bath. After 15 min, 4-benzyloxybenzaldehyde (5.3 g, 25 mmol) was added. After stirring for an additional 30 min, the cold bath was allowed to slowly warm to −60° C. over 30 min. The reaction vessel was removed from the cold bath for 10 min, then cooled to −78° C. The reaction mixture was quenched with aq ammonium chloride, diluted with hexanes and allowed to stand at 4° C. for 48 h. Chloroform was added to dissolve the precipitate. The mixture was dried with sodium sulfate and concentrated to about 100 mL, upon which a precipitate formed. Hexanes (100 mL) was added and the solid was filtered and washed with a mixture of 100 mL of hexanes and 50 mL of EtOAc to provide the title compound as a racemic mixture. LCMS (ESI): m/z 353.1 [M−OH]+. 1H NMR (500 MHz, CD2Cl2): δ (ppm) 7.82 (s, 1H), 7.74 (m, 2H), 7.46-7.32 (m, 8H), 7.16 (m, 2H), 6.96 (d, J=8.7 Hz, 2H), 5.94 (d, J=2.3 Hz, 1H), 5.07 (s, 2H), 3.92 (s, 3H).

reactant | n-BuLi | [Li]CCCC
reactant | 6-methoxy-2-bromonaphthalene | 25 mmol, 5.9 g | COC=1C=C2C=CC(=CC2=CC1)Br | C11H9BrO
reactant | 4-benzyloxybenzaldehyde | 25 mmol, 5.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Benzyl 4-[(RS)-hydroxy(6-methoxy-2-naphthyl)methyl]benzoate | OC(C1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C1=CC2=CC=C(C=C2C=C1)OC | C26H22O4
